US07973072B2
8. Synthesis of 3,3-bis(hydroxymethyl)-7-methyl-1-oxo-1λ4-thiochroman-4-one
A solution of 3,3-bis(hydroxymethyl)-7-methylthiochroman-4-one (300 mg, 1.26 mmol) in MeOH (6 ml) was admixed with a solution of sodium metaperiodate (286 mg, 1.34 mmol) in water (3 ml) and stirred at RT overnight. The reaction mixture was diluted with water (20 ml) and extracted with EtOAc (3×30 ml), the combined organic phases were dried over sodium sulfate and the solvent was removed under reduced pressure. After column chromatography purification of the residue (silica gel, 4:1 cyclohexane/EtOAc, 1% by vol. of acetic acid), the desired product was obtained as a white solid (186 mg, 58% of theory).

reactant | 3,3-bis(hydroxymethyl)-7-methylthiochroman-4-one | 1.26 mmol, 300 mg | OCC1(CSC2=CC(=CC=C2C1=O)C)CO | C12H14O3S
reactant | sodium metaperiodate | 1.34 mmol, 286 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | MeOH | 6 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 3,3-bis(hydroxymethyl)-7-methyl-1-oxo-1λ4-thiochroman-4-one | OCC1(CS(C2=CC(=CC=C2C1=O)C)=O)CO | C12H14O4S
